US09056873B2
Preparation 30: (E)-2,6-Dichloro-4-(((2,4-dimethoxybenzyl)imino)methyl)-5-fluoronicotinic acid
To a solution of (2,4-dimethoxyphenyl)methanamine (40.5 g, 242.0 mmol) in MeOH (250 mL) was added 4,6-dichloro-7-fluoro-1-hydroxyfuro[3,4-c]pyridin-3(1H)-one (55.0 g, 231.0 mmol). The mixture was stirred for 0.5 h, filtered, and washed with petroleum ether to give the title compound as a white solid (73.0 g, 82%). 1H NMR (CDCl3, 400 MHz) δ ppm 3.75 (s, 3H), 3.79 (s, 3H), 3.93 (s, 2H), 6.30 (s, 1H), 6.40-6.42 (m, 2H), 7.12 (d, J=8.4 Hz, 1H). [M+H] calc'd for C16H13Cl2FN2O4, 387. found, 387.

reactant | (2,4-dimethoxyphenyl)methanamine | 242.0 mmol, 40.5 g | COC1=C(C=CC(=C1)OC)CN | C9H13NO2
reactant | 4,6-dichloro-7-fluoro-1-hydroxyfuro[3,4-c]pyridin-3(1H)-one | 231.0 mmol, 55.0 g | ClC1=NC(=C(C2=C1C(OC2O)=O)F)Cl | C7H2Cl2FNO3
solvent | MeOH | 250 mL | CO | CH4O
product | (E)-2,6-Dichloro-4-(((2,4-dimethoxybenzyl)imino)methyl)-5-fluoronicotinic acid | 73.0 g, 82% | ClC1=C(C(=O)O)C(=C(C(=N1)Cl)F)/C=N/CC1=C(C=C(C=C1)OC)OC | C16H13Cl2FN2O4
